US04011243
0.4 Gm. of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)-propionaldehyde is dissolved in 15 ml. of acetone and the solution is cooled to 0° C. under nitrogen. 0.4 ml. of 8N Jones reagent is added and the mixture is stirred for 2 hours, then diluted with water and extracted with ethyl acetate. The extract is washed with water then extracted with aqueous sodium carbonate. The aqueous solution is acidified with dilute hydrochloric acid and extracted with ethyl acetate. The ethyl acetate solution is dried and evaporated to yield 40% of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid, m.p. (chloroform-hexane) 138°-139° C.; m.p. (acetonehexane) 113°-115° C.

reactant | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)-propionaldehyde | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C=O)C | C18H14O2
reactant | acetone | CC(=O)C | C3H6O
reactant | Jones reagent | 8N | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | water | O | H2O
product | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid | 40% | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C(=O)O)C | C18H14O3
